US06207662B1
(±)-1-[(4-chlorobenzyl)morpholin-2-yl]-2-(2-methoxyphenyl)-ethene oxalic acid salt.
A mixture of N-(4-chlorobenzyl)-N-(2-hydroxyethyl) amine (2.00 g, 10.8 mmol) and cis-1,4-diacetoxy-2-buten (2.78 g, 16.2 mmol), triethylamine (3.26 g, 32.3 mmol), tetrakis triphenylphosphino palladium(O) (0.31 g, 0.27 mmol) in THF (20 ml) was refluxed overnight. DMF (10 ml) was added and the THF was stripped off in vacuum. Addition of 2-iodoanisole (3.8 g, 16.2 mmol) and diisopropylethylamine (2.8 g, 21.6 mmol) was followed by heating to 130° C. overnight. Ether was added and the organics were washed twice with aqueous sodium hydroxide (1 M). Chromatography on silica gel with dichloromethane with 1% methanol as the eluent gave the free base. Dissolution in ether and precipitation with oxalic acid gave the title compound. Yield 1.0 g, 21%. mp 178-180° C.

reactant | N-(4-chlorobenzyl)-N-(2-hydroxyethyl) amine | 10.8 mmol, 2.00 g | ClC1=CC=C(CNCCO)C=C1 | C9H12ClNO
reactant | cis-1,4-diacetoxy-2-buten | 16.2 mmol, 2.78 g | C(C)(=O)OC\C=C/COC(C)=O | C8H12O4
reactant | triethylamine | 32.3 mmol, 3.26 g | C(C)N(CC)CC | C6H15N
reactant | 2-iodoanisole | 16.2 mmol, 3.8 g | IC1=C(C=CC=C1)OC | C7H7IO
reactant | diisopropylethylamine | 21.6 mmol, 2.8 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (±)-1-[(4-chlorobenzyl)morpholin-2-yl]-2-(2-methoxyphenyl)-ethene oxalic acid salt | C(C(=O)O)(=O)O.ClC1=CC=C(CN2CC(OCC2)C=CC2=C(C=CC=C2)OC)C=C1 | InChI=1S/C20H22ClNO2.C2H2O4/c1-23-20-5-3-2-4-17(20)8-11-19-15-22(12-13-24-19)14-16-6-9-18(21)10-7-16;3-1(4)2(5)6/h2-11,19H,12-15H2,1H3;(H,3,4)(H,5,6)
